US09079866B2
N-(tert-butyl)-3′-fluoro-4′-(7-nitro-1H-indol-5-yl)-[1,1′-biphenyl]-2-sulfonamide
The title compound was prepared using analogous conditions to those described in Example 88 using 5-bromo-7-nitroindole and N-(tert-butyl)-3′-fluoro-4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-[1,1′-biphenyl]-2-sulfonamide. 1H NMR (400 MHz, CDCl3) δ 8.42 (s, 1H), 8.27-8.18 (m, 2H), 7.65-7.58 (m, 2H), 7.58-7.50 (m, 1H), 7.50-7.35 (m, 4H), 6.83-6.77 (m, 1H), 1.17-1.03 (m, 9H).

reactant | 5-bromo-7-nitroindole | BrC=1C=C2C=CNC2=C(C1)[N+](=O)[O-] | C8H5BrN2O2
reactant | N-(tert-butyl)-3′-fluoro-4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-[1,1′-biphenyl]-2-sulfonamide | C(C)(C)(C)NS(=O)(=O)C=1C(=CC=CC1)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C22H29BFNO4S
product | N-(tert-butyl)-3′-fluoro-4′-(7-nitro-1H-indol-5-yl)-[1,1′-biphenyl]-2-sulfonamide | C(C)(C)(C)NS(=O)(=O)C=1C(=CC=CC1)C1=CC(=C(C=C1)C=1C=C2C=CNC2=C(C1)[N+](=O)[O-])F | C24H22FN3O4S
